US05064819
7.0 g of isopropyl 3-aminopropyl(n-propyl)phosphinate and 40 ml of 20% hydrochloric acid are stirred at reflux temperature overnight. The reaction mixture is evaporated to dryness, taken up in methanol and treated with propylene oxide. The white solid is filtered off and dried over phosphorous pentoxide to yield 3-aminopropyl(n-propyl)phosphinic acid×0.1 H2O as white crystals, m.p. 210°-213°.

reactant | isopropyl 3-aminopropyl(n-propyl)phosphinate | 7.0 g | NCCCP(OC(C)C)(=O)CCC | C9H22NO2P
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 3-aminopropyl(n-propyl)phosphinic acid | NCCCP(O)(=O)CCC | C6H16NO2P
